US08957215B2
2-Bromo-1,3-benzothiazol-6-ol (40 mg, 0.17 mmol) and 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]morpholine (61 mg, 0.21 mmol) were reacted according to the procedure used for the preparation of 5-(6-methoxy-1,3-benzothiazol-2-yl)pyrimidin-2-amine The reaction mixture was cooled to rt and concentrated. Flash chromatography (Heptane/EtOAc 1:1) gave the title compound (21 mg) as an off-white solid. 1H NMR δ 9.80 (br s, 1 H) 8.71 (d, 1 H) 8.09 (dd, 1 H) 7.77 (d, 1 H) 7.37 (d, 1 H) 6.98-6.93 (m, 2 H) 3.73-3.69 (m, 4 H) 3.61-3.56 (m, 4 H); MS ink (M+H) 314.

reactant | 2-Bromo-1,3-benzothiazol-6-ol | 0.17 mmol, 40 mg | BrC=1SC2=C(N1)C=CC(=C2)O | C7H4BrNOS
reactant | 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]morpholine | 0.21 mmol, 61 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCOCC1)C | C15H23BN2O3
reactant | 5-(6-methoxy-1,3-benzothiazol-2-yl)pyrimidin-2-amine | COC1=CC2=C(N=C(S2)C=2C=NC(=NC2)N)C=C1 | C12H10N4OS
product | 2-(6-Morpholin-4-ylpyridin-3-yl)-1,3-benzothiazol-6-ol | 21 mg | N1(CCOCC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)O | C16H15N3O2S
